US06586429B2
To a stirring suspension of (R)-1-(5-acetoxyhexyl)-3-methylxanthine (9.3 g, 30.2 mmol) and sodium acetate (4.92 g, 60.0 mmol) in acetic acid (200 ml) at 60° C. was added bromine (5.76 g, 36.0 mmol) dropwise. After stirring at 60° C. for an additional 2 hours, the reaction mixture was concentrated under reduced pressure. The residue was treated with water (100 ml) and stirred at room temperature for 1 hour. After filtration, the solids were washed with water (3×15 ml) and dried under vacuum to provide (R)-1-(5-acetoxyhexyl)-8-bromo-3-methylxanthine (8.8 g, 75% yield) as a beige powder.

reactant | (R)-1-(5-acetoxyhexyl)-3-methylxanthine | 30.2 mmol, 9.3 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=CNC2C1=O)C)C | C14H20N4O4
reactant | sodium acetate | 60.0 mmol, 4.92 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 36.0 mmol, 5.76 g | BrBr | Br2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | (R)-1-(5-acetoxyhexyl)-8-bromo-3-methylxanthine | 8.8 g, 75% yield | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)Br)C)C | C14H19BrN4O4
